US06153768
Synthesis of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-(9-pentylsulfinylnonyl)thiochroman
A solution of (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-(9-pentylthiononyl)thiochroman (178 mg, 0.355 mmol) and sodium periodate (83 mg, 0.390 mmol) in methanol (20 ml) and water (5 ml) was stirred at room temperature for 3.5 hours. The reaction mixture was quenched with water and then diluted with ethyl acetate. The organic layer was washed with water, dried over magnesium sulfate, filtered and concentrated. The concentrate was purified with preparative chromatography on silica gel plate (hexane:ethyl acetate=1:1) to obtain 101 mg (yield: 55%) of the title compound as a colorless oil.

reactant | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-(9-pentylthiononyl)thiochroman | 0.355 mmol, 178 mg | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCCSCCCCC | C30H44O2S2
reactant | sodium periodate | 0.390 mmol, 83 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | (3RS,4RS)-7-hydroxy-3-(4-hydroxyphenyl)-3-methyl-4-(9-pentylsulfinylnonyl)thiochroman | 101 mg, yield: 55% | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)CCCCCCCCCS(=O)CCCCC | C30H44O3S2
